US08685970B2
tert-Butyl 4-(hydroxymethyl)thiazol-2-ylcarbamate (2.0 g, 8.7 mmol) was taken up in 25 mL of CH2Cl2 along with Et3N (1.82 mL, 13.05 mmol) and cooled to 0° C. Methanesulfonyl chloride (0.85 mL, 10.88 mmol) was added and the resulting reaction mixture was stirred at 0° C. for 60 min. Morpholine (3.0 mL, 35 mmol) was then added and the reaction mixture was stirred at room temperature for 18 h. The reaction mixture was concentrated under reduced pressure. The resulting residue was taken up in EtOAc and washed with dilute aqueous NaHCO3, brine, dried (Na2SO4) and concentrated under reduced pressure. This material was purified by filtering through a short column of silica gel. The filtrate was concentrated to afford 1.88 g of tert-butyl 4-(morpholinomethyl)thiazol-2-ylcarbamate. The Boc group was removed by treating tert-butyl 4-(morpholinomethyl)thiazol-2-ylcarbamate with 20 mL of 25% TFA in CH2Cl2 for 18 h at room temperature. After all the solvent had been removed by concentrating and drying under high vacuum, the resulting residue was treated with a mixture of pentane/EtOAc to afford 2.17 g 4-(morpholinomethyl)thiazol-2-amine as a white solid.

reactant | tert-Butyl 4-(hydroxymethyl)thiazol-2-ylcarbamate | 8.7 mmol, 2.0 g | OCC=1N=C(SC1)NC(OC(C)(C)C)=O | C9H14N2O3S
reactant | Et3N | 13.05 mmol, 1.82 mL | CCN(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 10.88 mmol, 0.85 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Morpholine | 35 mmol, 3.0 mL | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(morpholinomethyl)thiazol-2-ylcarbamate | 1.88 g | O1CCN(CC1)CC=1N=C(SC1)NC(OC(C)(C)C)=O | C13H21N3O3S
